* PEX produced on Sun Aug  2 02:33:03 PM CEST 2026 using scripts/sak-pex.sh with m=3 and s=1 (extresist threshold=10000 mOhm, minres=1000 mOhm, mindelay=1 ps)
* NGSPICE file created from heichips26_analog_project_pex.ext - technology: ihp-sg13cmos5l

.subckt heichips26_analog_project_pex VPWR VAPWR VGND rst_n clk ena uio_in[7]
+ uio_in[6] uio_in[5] uio_in[4] uio_in[3] uio_in[2] uio_in[1] uio_in[0] ui_in[7]
+ ui_in[6] ui_in[5] ui_in[4] ui_in[3] ui_in[2] ui_in[1] ui_in[0] uio_oe[7]
+ uio_oe[6] uio_oe[5] uio_oe[4] uio_oe[3] uio_oe[2] uio_oe[1] uio_oe[0]
+ uio_out[7] uio_out[6] uio_out[5] uio_out[4] uio_out[3] uio_out[2] uio_out[1]
+ uio_out[0] uo_out[7] uo_out[6] uo_out[5] uo_out[4] uo_out[3] uo_out[2]
+ uo_out[1] uo_out[0] analog_2 analog_1 analog_0
X0 VAPWR VAPWR VAPWR VAPWR sg13_lv_pmos ad=1.14p pd=6.38u as=0.28875n ps=0.61464m w=6u l=1u
X1 VGND.t4 VGND.t24 VGND.t4 VGND.t25 sg13_lv_nmos ad=0.34p pd=2.68u as=0 ps=0 w=1u l=1u
X2 analog_1 analog_0 VGND.t4 VGND.t3 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X3 analog_1 analog_0 VAPWR VAPWR sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X4 VAPWR ui_in[0].t1 analog_2 VAPWR sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X5 VAPWR analog_0 analog_1 VAPWR sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X6 analog_1 analog_0 VGND.t4 VGND.t6 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X7 VAPWR analog_0 analog_1 VAPWR sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X8 VAPWR analog_0 analog_1 VAPWR sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X9 VGND.t4 analog_0 analog_1 VGND.t9 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X10 VAPWR analog_0 analog_1 VAPWR sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X11 analog_1 analog_0 VAPWR VAPWR sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X12 analog_2 ui_in[0].t1 VAPWR VAPWR sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X13 VGND.t4 analog_0 analog_1 VGND.t7 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X14 VGND.t4 analog_0 analog_1 VGND.t11 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X15 analog_1 analog_0 VAPWR VAPWR sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X16 analog_2 ui_in[0].t1 VAPWR VAPWR sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X17 VAPWR analog_0 analog_1 VAPWR sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X18 VAPWR ui_in[0].t1 analog_2 VAPWR sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X19 VGND.t4 analog_0 analog_1 VGND.t13 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X20 analog_1 analog_0 VGND.t4 VGND.t18 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X21 analog_2 ui_in[0].t1 VAPWR VAPWR sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X22 VGND.t4 ui_in[0].t0 analog_2 VGND.t23 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X23 analog_1 analog_0 VGND.t4 VGND.t16 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X24 VAPWR analog_0 analog_1 VAPWR sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X25 VAPWR ui_in[0].t1 analog_2 VAPWR sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X26 analog_2 ui_in[0].t1 VAPWR VAPWR sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X27 analog_2 ui_in[0].t0 VGND.t4 VGND.t3 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X28 VGND.t4 analog_0 analog_1 VGND.t19 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X29 VAPWR VAPWR VAPWR VAPWR sg13_lv_pmos ad=1.14p pd=6.38u as=0 ps=0 w=6u l=1u
X30 analog_2 ui_in[0].t1 VAPWR VAPWR sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X31 analog_2 ui_in[0].t1 VAPWR VAPWR sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X32 VAPWR VAPWR VAPWR VAPWR sg13_lv_pmos ad=2.04p pd=12.68u as=0 ps=0 w=6u l=1u
X33 VGND.t4 analog_0 analog_1 VGND.t21 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X34 VAPWR analog_0 analog_1 VAPWR sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X35 analog_2 ui_in[0].t0 VGND.t4 VGND.t6 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X36 VGND.t4 VGND.t30 VGND.t4 VGND.t27 sg13_lv_nmos ad=0.19p pd=1.38u as=0 ps=0 w=1u l=1u
X37 VGND.t1 VPWR VGND.t1 VGND.t0 sg13_lv_pmos ad=3.4p pd=20.68u as=0 ps=0 w=10u l=10u
X38 VGND.t4 ui_in[0].t0 analog_2 VGND.t9 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X39 VGND.t4 analog_0 analog_1 VGND.t5 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X40 VGND.t4 ui_in[0].t0 analog_2 VGND.t7 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X41 VGND.t4 ui_in[0].t0 analog_2 VGND.t11 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X42 analog_1 analog_0 VAPWR VAPWR sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X43 analog_1 analog_0 VAPWR VAPWR sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X44 VGND.t4 ui_in[0].t0 analog_2 VGND.t13 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X45 analog_2 ui_in[0].t0 VGND.t4 VGND.t18 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X46 analog_1 analog_0 VGND.t4 VGND.t10 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X47 VAPWR analog_0 analog_1 VAPWR sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X48 analog_2 ui_in[0].t0 VGND.t4 VGND.t16 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X49 analog_1 analog_0 VAPWR VAPWR sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X50 VGND.t4 ui_in[0].t0 analog_2 VGND.t19 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X51 analog_1 analog_0 VGND.t4 VGND.t12 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X52 VAPWR analog_0 analog_1 VAPWR sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X53 analog_1 analog_0 VAPWR VAPWR sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X54 VAPWR ui_in[0].t1 analog_2 VAPWR sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X55 VGND.t4 analog_0 analog_1 VGND.t15 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X56 analog_1 analog_0 VAPWR VAPWR sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X57 analog_1 analog_0 VAPWR VAPWR sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X58 analog_2 ui_in[0].t1 VAPWR VAPWR sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X59 VGND.t4 ui_in[0].t0 analog_2 VGND.t21 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X60 analog_1 analog_0 VGND.t4 VGND.t14 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X61 VAPWR VAPWR VAPWR VAPWR sg13_lv_pmos ad=2.04p pd=12.68u as=0 ps=0 w=6u l=1u
X62 VGND.t4 VGND.t26 VGND.t4 VGND.t27 sg13_lv_nmos ad=0.19p pd=1.38u as=0 ps=0 w=1u l=1u
X63 VGND.t4 analog_0 analog_1 VGND.t17 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X64 analog_1 analog_0 VGND.t4 VGND.t22 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X65 VGND.t4 VGND.t28 VGND.t4 VGND.t25 sg13_lv_nmos ad=0.34p pd=2.68u as=0 ps=0 w=1u l=1u
X66 analog_1 analog_0 VGND.t4 VGND.t8 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X67 analog_1 analog_0 VGND.t4 VGND.t20 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X68 analog_2 ui_in[0].t1 VAPWR VAPWR sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X69 VAPWR ui_in[0].t1 analog_2 VAPWR sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X70 VGND.t4 ui_in[0].t0 analog_2 VGND.t5 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X71 VAPWR ui_in[0].t1 analog_2 VAPWR sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X72 VAPWR ui_in[0].t1 analog_2 VAPWR sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X73 analog_2 ui_in[0].t0 VGND.t4 VGND.t10 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X74 VAPWR ui_in[0].t1 analog_2 VAPWR sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X75 analog_2 ui_in[0].t1 VAPWR VAPWR sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X76 analog_2 ui_in[0].t0 VGND.t4 VGND.t12 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X77 analog_2 ui_in[0].t1 VAPWR VAPWR sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X78 VGND.t4 ui_in[0].t0 analog_2 VGND.t15 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X79 VAPWR analog_0 analog_1 VAPWR sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X80 VAPWR ui_in[0].t1 analog_2 VAPWR sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X81 analog_2 ui_in[0].t0 VGND.t4 VGND.t14 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X82 analog_1 analog_0 VAPWR VAPWR sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X83 VGND.t4 ui_in[0].t0 analog_2 VGND.t17 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X84 analog_2 ui_in[0].t0 VGND.t4 VGND.t22 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X85 VGND.t1 VAPWR VGND.t1 VGND.t2 sg13_lv_pmos ad=3.4p pd=20.68u as=0 ps=0 w=10u l=10u
X86 VAPWR ui_in[0].t1 analog_2 VAPWR sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X87 analog_2 ui_in[0].t0 VGND.t4 VGND.t8 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X88 analog_2 ui_in[0].t0 VGND.t4 VGND.t20 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X89 VGND.t4 analog_0 analog_1 VGND.t23 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
R0 ui_in[0].n15 ui_in[0].t1 0.994683
R1 ui_in[0].n17 ui_in[0].t0 0.994013
R2 ui_in[0].n9 ui_in[0].n1 0.748572
R3 ui_in[0].n10 ui_in[0].n9 0.578786
R4 ui_in[0].n11 ui_in[0].n10 0.578786
R5 ui_in[0].n12 ui_in[0].n11 0.578786
R6 ui_in[0].n13 ui_in[0].n12 0.578786
R7 ui_in[0].n14 ui_in[0].n13 0.578786
R8 ui_in[0].n15 ui_in[0].n14 0.578786
R9 ui_in[0].n0 ui_in[0].n24 0.755676
R10 ui_in[0].n24 ui_in[0].n23 0.578786
R11 ui_in[0].n23 ui_in[0].n22 0.578786
R12 ui_in[0].n22 ui_in[0].n21 0.578786
R13 ui_in[0].n21 ui_in[0].n20 0.578786
R14 ui_in[0].n20 ui_in[0].n19 0.578786
R15 ui_in[0].n19 ui_in[0].n18 0.578786
R16 ui_in[0].n18 ui_in[0].n17 0.578786
R17 ui_in[0].n14 ui_in[0].n8 0.254024
R18 ui_in[0].n13 ui_in[0].n7 0.254024
R19 ui_in[0].n12 ui_in[0].n6 0.254024
R20 ui_in[0].n11 ui_in[0].n5 0.254024
R21 ui_in[0].n10 ui_in[0].n4 0.254024
R22 ui_in[0].n9 ui_in[0].n3 0.254024
R23 ui_in[0].n1 ui_in[0].n2 0.0282822
R24 ui_in[0].n24 ui_in[0].n2 0.254024
R25 ui_in[0].n23 ui_in[0].n3 0.254024
R26 ui_in[0].n22 ui_in[0].n4 0.254024
R27 ui_in[0].n21 ui_in[0].n5 0.254024
R28 ui_in[0].n20 ui_in[0].n6 0.254024
R29 ui_in[0].n19 ui_in[0].n7 0.254024
R30 ui_in[0].n18 ui_in[0].n8 0.254024
R31 ui_in[0].n17 ui_in[0].n16 0.192615
R32 ui_in[0].n16 ui_in[0].n15 0.191641
R33 ui_in[0].n16 ui_in[0].n8 0.128842
R34 ui_in[0].n1 ui_in[0].n0 0.105962
R35 ui_in[0].n3 ui_in[0].n2 0.12194
R36 ui_in[0].n4 ui_in[0].n3 0.12194
R37 ui_in[0].n5 ui_in[0].n4 0.12194
R38 ui_in[0].n6 ui_in[0].n5 0.12194
R39 ui_in[0].n7 ui_in[0].n6 0.12194
R40 ui_in[0].n8 ui_in[0].n7 0.12194
R41 ui_in[0] ui_in[0].n0 40.295
R42 VGND.t23 VGND.n2 91.0293
R43 VGND.t22 VGND.n3 85.5945
R44 VGND.t21 VGND.n4 80.1596
R45 VGND.t18 VGND.n20 63.8549
R46 VGND.t13 VGND.n6 58.42
R47 VGND.t17 VGND.n10 58.4203
R48 VGND.t12 VGND.n7 52.9858
R49 VGND.n18 VGND.t15 52.9841
R50 VGND.t16 VGND.n18 52.9855
R51 VGND.t11 VGND.n8 47.5505
R52 VGND.t15 VGND.n5 47.5505
R53 VGND.t10 VGND.n19 42.116
R54 VGND.n12 VGND.t13 42.1148
R55 VGND.t14 VGND.n12 42.117
R56 VGND.t9 VGND.n0 36.6809
R57 VGND.t8 VGND.n15 31.2465
R58 VGND.t7 VGND.n17 25.8113
R59 VGND.n1 VGND.t27 3.89152
R60 VGND.n16 VGND.t19 69.2907
R61 VGND.t4 VGND.n20 0.00133153
R62 VGND.t4 VGND.n18 0.00133678
R63 VGND.t4 VGND.n12 0.00127989
R64 VGND.t9 VGND.n19 63.8551
R65 VGND.t4 VGND.n19 0.00133158
R66 VGND.n15 VGND.t7 74.7241
R67 VGND.t4 VGND.n15 0.00133685
R68 VGND.t4 VGND.n17 0.00133686
R69 VGND.t4 VGND.n11 0.00133687
R70 VGND.t20 VGND.n14 74.7257
R71 VGND.n14 VGND.t4 0.00133169
R72 VGND.n16 VGND.t4 0.00133165
R73 VGND.n10 VGND.t4 0.0013369
R74 VGND.t6 VGND.n9 20.3764
R75 VGND.t24 VGND.t4 4.99672
R76 VGND.t4 VGND.t30 4.99233
R77 VGND.t4 VGND.t26 4.99233
R78 VGND.t4 VGND.t28 4.99672
R79 VGND.t5 VGND.n11 14.9424
R80 VGND.n17 VGND.t6 80.1595
R81 VGND.n10 VGND.t16 47.5509
R82 VGND.n16 VGND.t18 36.6813
R83 VGND.n14 VGND.t19 31.2467
R84 VGND.n2 VGND.t22 14.9404
R85 VGND.n3 VGND.t21 20.3752
R86 VGND.n4 VGND.t20 25.8101
R87 VGND.n5 VGND.t14 58.4189
R88 VGND.n6 VGND.t12 47.5506
R89 VGND.n8 VGND.t10 58.4191
R90 VGND.n0 VGND.t8 69.2888
R91 VGND.n9 VGND.t5 85.5933
R92 VGND.n13 VGND.t25 4.26695
R93 VGND.t2 VGND.t1 0.661988
R94 VGND.t3 VGND.n13 9.50808
R95 VGND.n1 VGND.t23 9.50752
R96 VGND.n20 VGND.t17 42.1155
R97 VGND.n7 VGND.t11 52.9853
R98 VGND.t3 VGND.n11 91.0284
R99 VGND.n13 VGND.t4 0.00102926
R100 VGND VGND.n21 1.88203
R101 VGND.n21 VGND.t4 1.49725
R102 VGND.t4 VGND.n0 0.00133678
R103 VGND.t4 VGND.n1 0.00102463
R104 VGND.t4 VGND.n2 0.00133678
R105 VGND.t4 VGND.n3 0.00133678
R106 VGND.t4 VGND.n4 0.00133678
R107 VGND.t4 VGND.n5 0.00133677
R108 VGND.t4 VGND.n6 0.00133687
R109 VGND.t4 VGND.n7 0.00133159
R110 VGND.t4 VGND.n8 0.00133678
R111 VGND.t4 VGND.n9 0.00133678
R112 VGND.n21 VGND.t1 1.57131
R113 VGND.t1 VGND.t0 1.52216
C0 ui_in[0] analog_0 0.25462f
C1 VAPWR analog_2 19.494f
C2 ui_in[0] analog_2 18.7529f
C3 analog_1 analog_0 19.9607f
C4 VAPWR ui_in[0] 30.2796f
C5 ui_in[0] VPWR 0.54099f
C6 analog_2 analog_1 1.44271f
C7 VAPWR analog_1 19.588f
C8 VAPWR analog_0 30.2344f
C9 uo_out[0] VGND 0.04448f
C10 uo_out[1] VGND 0.03799f
C11 uo_out[2] VGND 0.03799f
C12 uo_out[3] VGND 0.03799f
C13 uo_out[4] VGND 0.03799f
C14 uo_out[5] VGND 0.03799f
C15 uo_out[6] VGND 0.03799f
C16 uo_out[7] VGND 0.03799f
C17 uio_out[0] VGND 0.03799f
C18 uio_out[1] VGND 0.03799f
C19 uio_out[2] VGND 0.03799f
C20 uio_out[3] VGND 0.03799f
C21 uio_out[4] VGND 0.03799f
C22 uio_out[5] VGND 0.03799f
C23 uio_out[6] VGND 0.03799f
C24 uio_out[7] VGND 0.03799f
C25 uio_oe[0] VGND 0.03799f
C26 uio_oe[1] VGND 0.03799f
C27 uio_oe[2] VGND 0.03799f
C28 uio_oe[3] VGND 0.03799f
C29 uio_oe[4] VGND 0.03799f
C30 uio_oe[5] VGND 0.03799f
C31 uio_oe[6] VGND 0.03799f
C32 uio_oe[7] VGND 0.03799f
C33 ui_in[1] VGND 0.03799f
C34 ui_in[2] VGND 0.03799f
C35 ui_in[3] VGND 0.03799f
C36 ui_in[4] VGND 0.03799f
C37 ui_in[5] VGND 0.03799f
C38 ui_in[6] VGND 0.03799f
C39 ui_in[7] VGND 0.03799f
C40 uio_in[0] VGND 0.03799f
C41 uio_in[1] VGND 0.03799f
C42 uio_in[2] VGND 0.03799f
C43 uio_in[3] VGND 0.03799f
C44 uio_in[4] VGND 0.03799f
C45 uio_in[5] VGND 0.03799f
C46 uio_in[6] VGND 0.03799f
C47 uio_in[7] VGND 0.03799f
C48 ena VGND 0.03799f
C49 clk VGND 0.03799f
C50 rst_n VGND 0.04448f
C51 analog_1 VGND 27.9707f
C52 analog_2 VGND 33.2753f
C53 ui_in[0] VGND 32.20408f
C54 VGND.t1 VGND 50.5974f
C55 VGND.t4 VGND 16.73315f
C56 ui_in[0].n0 VGND 4.60807f
C57 ui_in[0].n1 VGND 0.13896f
C58 ui_in[0].n2 VGND 0.26857f
C59 ui_in[0].n3 VGND 0.26857f
C60 ui_in[0].n4 VGND 0.26857f
C61 ui_in[0].n5 VGND 0.26857f
C62 ui_in[0].n6 VGND 0.26857f
C63 ui_in[0].n7 VGND 0.26857f
C64 ui_in[0].n8 VGND 0.28384f
C65 ui_in[0].n9 VGND 0.08166f
C66 ui_in[0].n10 VGND 0.06297f
C67 ui_in[0].n11 VGND 0.06297f
C68 ui_in[0].n12 VGND 0.06297f
C69 ui_in[0].n13 VGND 0.06297f
C70 ui_in[0].n14 VGND 0.06297f
C71 ui_in[0].n15 VGND 0.70263f
C72 ui_in[0].n16 VGND 2.82525f
C73 ui_in[0].n17 VGND 0.71398f
C74 ui_in[0].n18 VGND 0.06297f
C75 ui_in[0].n19 VGND 0.06297f
C76 ui_in[0].n20 VGND 0.06297f
C77 ui_in[0].n21 VGND 0.06297f
C78 ui_in[0].n22 VGND 0.06297f
C79 ui_in[0].n23 VGND 0.06297f
C80 ui_in[0].n24 VGND 0.08251f
.ends

